US08604034B2
To a suspension of 10a-(4-hydroxyphenyl)-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one (50 mg, 0.19 mmol) and potassium carbonate (77 mg, 0.56 mmol) in DMF (1 mL) was added (2-bromoethoxy)-tert-butyldimethylsilane (120 μL, 0.56 mmol). The mixture was heated at 100° C. The outcome of the reaction was monitored by LCMS. After completion (45 minutes) the mixture was diluted with a saturated aqueous solution of NH4Cl (6 mL) and extracted with ethyl acetate (3×2.5 mL). The combined organic layers were dried (MgSO4), filtered and concentrated in vacuo to yield a pale yellow solid that was purified by flash chromatography (Biotage SP4, 12 g silica cartridge, gradient 0-10% MeOH in CH2Cl2) to give 10a-[4-(2-{[tert-butyl(dimethyl)silyl]oxy}ethoxy)phenyl]-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one (86 mg, quantitative yield). ESI-MI m/z [M+H]+ 428.2.

reactant | 10a-(4-hydroxyphenyl)-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one | 0.19 mmol, 50 mg | OC1=CC=C(C=C1)C12N(C(C=3N(C1)C=CC3)=O)CCN2 | C15H15N3O2
reactant | potassium carbonate | 0.56 mmol, 77 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (2-bromoethoxy)-tert-butyldimethylsilane | 0.56 mmol, 120 μL | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | NH4Cl | 6 mL | [NH4+].[Cl-]
product | 10a-[4-(2-{[tert-butyl(dimethyl)silyl]oxy}ethoxy)phenyl]-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one | 86 mg, quantitative yield | [Si](C)(C)(C(C)(C)C)OCCOC1=CC=C(C=C1)C12N(C(C=3N(C1)C=CC3)=O)CCN2 | C23H33N3O3Si
